US05162326
3-Propyl-6-propylsulfinyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
To a solution of 3-propyl-6-propylthio-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.6 g) in dichloromethane (10 ml) was added m-chloroperbenzoic acid (0.16 g) and the mixture was stirred at room temperature for 16 hours. The reaction mixture was washed with an aqueous sodium bicarbonate solution and water, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give colorless powders (0.27 g, 44%).

reactant | 3-propyl-6-propylthio-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.6 g | C(CC)N1C(N(C(=CC1=O)SCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H40N6O2S
reactant | m-chloroperbenzoic acid | 0.16 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Propyl-6-propylsulfinyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.27 g, 44% | C(CC)N1C(N(C(=CC1=O)S(=O)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H40N6O3S
